US05030727
2-bromo-3-methyl-9-methoxy-5H-thiazolo-(2,3-b)-quinazolin-5-one (compound 80)
4.8 g of 3-methoxyanthranilamide and 7.5 g of 2,5-dibromo-4-methylthiazole were stirred for 12 hours at 140° C. After working up in the conventional manner there was obtained 7.3 g (77%) of the above compound; m.p. 198°-199° C.

reactant | 3-methoxyanthranilamide | 4.8 g | COC1=C(C(C(=O)N)=CC=C1)N | C8H10N2O2
reactant | 2,5-dibromo-4-methylthiazole | 7.5 g | BrC=1SC(=C(N1)C)Br | C4H3Br2NS
product | 2-bromo-3-methyl-9-methoxy-5H-thiazolo-(2,3-b)-quinazolin-5-one | 7.3 g, 77% | BrC1=C(N2C(=NC3=C(C=CC=C3C2=O)OC)S1)C | C12H9BrN2O2S
